US08748645B2
Siliconate from methyltrimethoxysilane/KOH (1:0.85)
A 500 ml 5-neck round-bottom flask, inertized with nitrogen and fitted with paddle stirrer, dropping funnel, thermometer, and water separator with reflux condenser, is charged with 75 g (0.55 mol) of methyltrimethoxysilane (available commercially from Wacker Chemie AG) and 65 g of Isopar E (isoparaffinic hydrocarbon mixture with a boiling range of 113-143° C., available commercially from ExxonMobil). The water separator is filled to the brim with Isopar E. Accompanied by stirring at 350 rpm, a solution of 30.9 g (0.47 mol) of potassium hydroxide (85% form, available commercially from AppliChem) in 19.8 g of demineralized water is metered in over 10 minutes. In the course of this metered addition, the reaction mixture heats up to 69° C. It is brought by further heating to boiling temperature, and the stirrer speed is reduced to 50 rpm. The distillate separates off as the bottom phase in the water separator. Up to a boiling temperature of 121° C., 64.9 g of clear colorless distillate accumulate, containing—according to analysis by gas chromatography—83.3% of methanol, 14.6% of water, and 1.7% of Isopar E. The hydrolysis of the methoxy radicals in the methyltrimethoxysilane is therefore quantitative. During the distillation, a pastelike white solid separates out in the reaction mixture, and breaks down increasingly into fine particles and forms a suspension. The suspension is filtered through a Beco KD3 filter plate in a pressure suction filter, and nitrogen is passed through until the weight is constant. This gives 61.1 g of fine, white, free-flowable powder with a solids content of 100% (determined using the HR73 halogen moisture analyzer from Mettler Toledo at 160° C.). A 50% strength aqueous solution prepared with this solid exhibits no precipitation even after storage at room temperature for two weeks in the absence of air.

reactant | methyltrimethoxysilane | 0.55 mol, 75 g | C[Si](OC)(OC)OC | C4H12O3Si
reactant | potassium hydroxide | 0.47 mol, 30.9 g | [OH-].[K+]
reactant | methanol | CO | CH4O
solvent | water | 19.8 g | O | H2O
product | methyltrimethoxysilane KOH | C[Si](OC)(OC)OC.[OH-].[K+] | InChI=1S/C4H12O3Si.K.H2O/c1-5-8(4,6-2)7-3;;/h1-4H3;;1H2/q;+1;/p-1
